US04249931
2-p-Chlorophenyl-5-methoxymethyl oxazolidine
Twelve and six tenths (12.6) grams of 1-amino-3-methoxy-2-propanol and 16.9 grams of p-chlorobenzaldehyde were combined in 150 milliliters of benzene and heated to reflux under a modified Dean-Stark apparatus until about 2.5 milliliters of water were azeotropically removed. An additional 50 milliliters of benzene was distilled over and the mixture was cooled to room temperature and the volume was adjusted to 109.2 milliliters, so that 4 milliliters=1 gram of intermediate. Aliquots of this solution were used in subsequent reactions.

reactant | 1-amino-3-methoxy-2-propanol | NCC(COC)O | C4H11NO2
reactant | p-chlorobenzaldehyde | 16.9 grams | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | water | about 2.5 milliliters | O | H2O
solvent | benzene | 150 milliliters | C1=CC=CC=C1 | C6H6
product | 2-p-Chlorophenyl-5-methoxymethyl oxazolidine | ClC1=CC=C(C=C1)C1OC(CN1)COC | C11H14ClNO2
